US07745484B2
Step 1: 4-bromo-N-(2-methylbut-3-yn-2-yl)benzenamine
To a solution of 4-bromobenzenamine (4.0 g, 23 mmol), TEA (4.3 ml, 31 mmol), 2.0 ml of water, copper (0.058 g, 0.91 mmol) and copper(I) chloride (0.058 g, 0.59 mmol) in diethyl ether (9.8 ml, 20 mmol) was added 3-chloro-3-methylbut-1-yne (2.0 g, 20 mmol), dropwise. After stirring overnight, the reaction mixture was transferred to a seperatory funnel containing water and diethyl ether. The aqueous layer was washed 3× with EtOAc. The organic layers were combined, dried with MgSO4, filtered and concentrated. The crude oil was purified with by MPLC (100% DCM to 10% (91/10/1 DCM:MeOH:NH4OH)) to provide the product as an oil. MS m/z: 240 (M+2).

reactant | 4-bromobenzenamine | 23 mmol, 4.0 g | BrC1=CC=C(C=C1)N | C6H6BrN
reactant | water | 2.0 ml | O | H2O
reactant | 3-chloro-3-methylbut-1-yne | 20 mmol, 2.0 g | ClC(C#C)(C)C | C5H7Cl
catalyst | copper | 0.91 mmol, 0.058 g | [Cu] | Cu
catalyst | copper(I) chloride | 0.59 mmol, 0.058 g | [Cu]Cl
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mmol, 9.8 ml | C(C)OCC | C4H10O
product | 4-bromo-N-(2-methylbut-3-yn-2-yl)benzenamine | BrC1=CC=C(C=C1)NC(C)(C#C)C | C11H12BrN
